US07012077B2
A supension of 128.6 g (375 mmol) of (methoxymethyl)triphenylphosphonium chloride in 540 ml THF was treated at −8° C. with 43.1 g (375 mmol) potassium tert-butoxide. The red solution was stirred 30 min at 0° C. and cooled (−20° C.), then 82.6 g (300 mmol) of trans-(4-Formyl-cyclohexyl)-methyl-carbamic acid benzyl ester in 240 ml THF were dropped in (60 min). The reaction was warmed to RT and stirred for 2 h, washed with aqueous saturated NaHCO3 (540 ml). The water phase was extracted with 0.5 l TBME, the combined organic phases were oxidized with 16 ml of hydrogen peroxide solution (35%), mixed with water (150 ml). The organic solvent was evaporated, the residue was extracted with MeOH (350 ml)/hexane (2×2000 ml). The hexane was washed twice with 500 ml MeOH/water (7/3), dried (Na2SO4) and evaporated to give 81.7 g (90%) of trans-(2E/Z) [4-(2-Methoxy-vinyl)-cyclohexyl]-methyl-carbamic acid benzyl ester, MS: 303(M).

reactant | (methoxymethyl)triphenylphosphonium chloride | 375 mmol, 128.6 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 375 mmol, 43.1 g | CC(C)([O-])C.[K+]
reactant | trans-(4-Formyl-cyclohexyl)-methyl-carbamic acid benzyl ester | 300 mmol, 82.6 g | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@H](CC1)C=O)=O | C16H21NO3
solvent | THF | 540 ml | C1CCOC1 | C4H8O
solvent | THF | 240 ml | C1CCOC1 | C4H8O
product | [4-(2-Methoxy-vinyl)-cyclohexyl]-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)C1CCC(CC1)C=COC)=O | C18H25NO3
